US05798442
L-Valine allyl ester
A solution of 100 mL CHCl3 /10% MeOH saturated at -20° C. with HBr gas was cooled to -78° C. To this solution was added N-(tert-Butyloxycarbonyl)-L-valine allyl ester (5.10 g, 19.8 mmol) dissolved in 10 mL CHCl3. The mixture was warmed to -20° C., stirred 15 min then poured into ice cold saturated NaHCO3 (300 mL). The organic phase was separated. The aqueous phase was washed with 50 mL of CHCl3. The organic phases were combined, dried over Na2 SO4, concentrated to afford 3.10 g (99%) of the title compound which was used without further purification.

reactant | HBr | Br | BrH
reactant | N-(tert-Butyloxycarbonyl)-L-valine allyl ester | 19.8 mmol, 5.10 g | C(C=C)OC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C13H23NO4
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | L-Valine allyl ester | 3.10 g, 99% | C(C=C)OC([C@@H](N)C(C)C)=O | C8H15NO2
